US04540690
Molecular sieve (size 3A, 2 g) was added to a solution of 2-(phenylmethylene)cyclohexanone (1.86 g, 0.01 mole) in 20 ml of methanol, followed by a solution of ammonium acetate (7.7 g, 0.1 mole) in 20 ml of methanol. The mixture was cooled to about 10° C., and a solution of sodium cyanoborohydride in 20 ml of methanol was added during five minutes. The mixture was stirred at ambient temperature for 19 hours. The mixture was filtered, and the filtrate was cooled and brought to pH 11 by the addition of 20% aqueous sodium hydroxide. The methanol was evaporated and the mixture was extracted with ether. The extract was washed with water (water layer discarded) and then with three 10 ml portions of 10% aqueous hydrochloric acid. Water was added to dissolve the resulting solid. The aqueous acidic layer was cooled, basified with sodium hydroxide and extracted with chloroform. The chloroform extract was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated to give 1.2 g of (±)-(E)-2-(phenylmethylene)cyclohexylamine which was identical (by tlc, UV, and nmr comparison) to the amine prepared in Part D of Example 1 above.

reactant | 2-(phenylmethylene)cyclohexanone | 0.01 mole, 1.86 g | C1(=CC=CC=C1)C=C1C(CCCC1)=O | C13H14O
reactant | ammonium acetate | 0.1 mole, 7.7 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | (±)-(E)-2-(phenylmethylene)cyclohexylamine | 1.2 g | C1(=CC=CC=C1)\C=C/1\C(CCCC1)N | C13H17N
